US06498159B1
18 g of hexamethylene tetramine was added little by little to a mixture of 31 g N-(4-methoxybenzyl)phthalimide and 100 ml trifluoroacetic acid, stirred at room temperature for 1 hr, and then heated under reflux for 4 hr. The reaction solution was cooled to 1° C., and water was added thereto. Potassium carbonate was added thereto and the resulting crystals were collected by filtration. The crystals were dried to give 20 g of N-(3-formyl-4-methoxybenzyl)phthalimide.

reactant | hexamethylene tetramine | 18 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | N-(4-methoxybenzyl)phthalimide | 31 g | COC1=CC=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H13NO3
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | N-(3-formyl-4-methoxybenzyl)phthalimide | 20 g | C(=O)C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1OC | C17H13NO4
